### PR TITLE
Kan Complexes and Weak Kan Complexes

### PR DESCRIPTION
**Pull request by TOTBWF**
## Patch Description
This PR implements Kan Complexes and Weak Kan Complexes, as well as adding some machinery surrounding Simplicial Sets that is required to do so. Of note are definitions for face and degeneracy maps, as well as boundaries and horns.
Particularly, this implements _Algebraic_ Kan Complexes, as those have less fiddly issues with choice.

## Notes
The combinatorics here were not as bad as I initially thought they would be! Everything works out rather well. However, there are a few things that I'm not 100% sure of.
- The inequality in the definition of `Horn` seems like it could become a bit awkward down the line?
- The proof obligations in `WeakKanComplex` seem pretty painful. Perhaps there is a more clever way of doing this?
- The unfolded equality in `∂Δ[_]` and `Λ[_,_]` does better than just lifting the equality from `Δ`, but it still falls on it's face from time to time (See `KanComplex⇒WeakKanComplex`)

## References
- https://ncatlab.org/nlab/show/Kan+complex
- https://ncatlab.org/nlab/show/weak+Kan+complex
- https://ncatlab.org/nlab/show/algebraic+Kan+complex

### CODE REVIEW

**Comment by sstucki** [comment]
I like the notes in the PR description. Can we add them to the README.md or somewhere else in the documentation? Maybe a README/Kan complexes.md?

**Comment by TOTBWF** [comment]
That's a great idea! I've made a `README` directory and added some notes to it. Perhaps there is a larger organizational discussion to be had about how we should keep track of various bits and bobs that we come across while implementing :)

**Comment by TOTBWF** [comment]
Oh man those Kan Complex equalities do _not_ make Agda happy! For some reason this passed locally without any yellow, but upon further inspection this seems to have unsolved metas anyways.

To make matters even _more_ confusing, Agda seems to be giving up randomly. For instance, the following proof is broken, and results in a huge pile of unsolved metas:
```agda
    ; Rid = λ { {X , X-Kan} i → begin
        id ∘ filler X-Kan i   ≈⟨ identityˡ {f = filler X-Kan i} ⟩
        -- What???
        filler X-Kan i        ≈˘⟨ filler-cong X-Kan (⟺ (identityˡ {f = i})) ⟩
        filler X-Kan (id ∘ i) ∎
      }
```
However, if we move that symmetry out it works fine?
```agda
    ; Rid = λ { {X , X-Kan} i → begin
        id ∘ filler X-Kan i   ≈⟨ identityˡ {f = filler X-Kan i} ⟩
        -- What???
        filler X-Kan i        ≈˘⟨ filler-cong X-Kan (identityˡ {f = i}) ⟩
        filler X-Kan (id ∘ i) ∎
      }
```

**Comment by TOTBWF** [comment]
Ok, I think I've got it compiling, but whatever I've created has totally trashed implicit resolution for reasons I don't quite understand. For some reason it looks like agda keeps eta-expanding records, and then filling a bunch of fields in with totally trash metavariables that never get solved. Perhaps we should think harder about what is going on with the equality here, because it's almost impossible to work with.

**Comment by sstucki** [comment]
> For some reason it looks like agda keeps eta-expanding records, and then filling a bunch of fields in with totally trash metavariables that never get solved.

Indeed, this is a curse or a blessing depending on context. It's a pain when you want to reason about e.g. "derived" notions because Agda first computes everything to weak-head normal forms before unification. Along the way, it often looses context that it then replaces by metas. But it's a blessing if you want to identify structures that are "extensionally" equal, i.e. all the record fields agree, but not the original expressions. There's a related discussion in #256.

**Comment by sstucki** [comment]
In particular, [this comment](https://github.com/agda/agda-categories/issues/256#issuecomment-790885946) has an example.

**Comment by TOTBWF** [comment]
I've started a Zulip thread for investigating how we can fix the metavariable issues in `filler-cong`

**Comment by JacquesCarette** [comment]
So should this PR wait until changes to stdlib, or would you like this in as soon as it's ready, and it can be improved later?

File: src/Categories/Category/Instance/Simplex.agda [hunk 1]
```diff
@@ -32,3 +32,38 @@ open import Relation.Binary.PropositionalEquality
...
+face-mono Fin.zero {x} {y} le = s≤s le
+face-mono (Fin.suc i) {Fin.zero} {y} le = z≤n
+face-mono (Fin.suc i) {Fin.suc x} {Fin.suc y} (s≤s le) = s≤s (face-mono i le)
+
+face : ∀ {n} → Fin (ℕ.suc n) → n ⇒ ℕ.suc n
+face i = face-map i , face-mono i
+
+degeneracy-map : ∀ {n} → Fin n → Fin (ℕ.suc n) → Fin n
+degeneracy-map Fin.zero Fin.zero = Fin.zero
+degeneracy-map Fin.zero (Fin.suc Fin.zero) = Fin.zero
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/Simplex.agda:56]: Do you need to split these two (line 56 and 57) ? Looks like you don't.

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,212 @@
...
+
+open import Data.Empty.Polymorphic
+open import Data.Nat using (ℕ)
+open import Data.Fin using (Fin; _<_; fromℕ)
+open import Data.Fin.Patterns
+open import Data.Product using (proj₁)
+
+import Relation.Binary.PropositionalEquality as Eq
+
+open import Categories.Category
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/SimplicialSet/Properties.agda:16]: If you could try to be more precise on the imports, especially when you need few things?

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,212 @@
...
+Δ[_] : ℕ → ΔSet
+Δ[_] n = LiftSetoids o ℓ ∘F Y.F₀ n
+
+--------------------------------------------------------------------------------
+-- Boundaries of the Standard Simplicies
+--
+-- The basic idea here is that we will build up boundary of 'Δ[ n ]' by considering
+-- all of the morphisms 'Δ[ m , n ]' that factor through some face map 'face i : Δ[ n - 1 , n ]'
+
+-- The indexing here is a bit tricky, but this is the price we pay to avoid 'pred'
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/SimplicialSet/Properties.agda:45]: Excellent comments.

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,212 @@
...
+-- A 'Boundary m n' represents some set of maps into 'Δ[ ℕ.suc n ]' that factor through
+-- a face map. To make this indexing more obvious, we use the suggestively named variable 'n-1'.
+record Boundary (m n-1 : ℕ) : Set where
+  field
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/SimplicialSet/Properties.agda:49]: maybe use
```agda
private
  n : ℕ
  n = ℕ.suc n-1
```
so as to be less confusing?

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,212 @@
...
+  ; factor-face = λ x → factor-face b (proj₁ f x)
+  }
+  where
+    open Category Δ
+    open Boundary
+
+-- The boundary of an n-simplex
+∂Δ[_] : ℕ → ΔSet 
+∂Δ[_] ℕ.zero = const record
+  { Carrier = ⊥
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/SimplicialSet/Properties.agda:70]: I'm pretty sure `record { Carrier = ⊥ }` would work - Agda's pretty good at auto-filling the rest in this case.

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda [hunk 6]
```diff
@@ -0,0 +1,212 @@
...
+    { η = λ X → record
+      { _⟨$⟩_ = λ (lift h) → lift (hom h)
+      ; cong = λ eq → lift (λ x → lower (eq x))
+      }
+    ; commute = λ f eq → lift (λ x → lower (eq (proj₁ f x)))
+    }
+    where
+      open Horn
+  
+  record IsKanComplex (X : ΔSet) : Set (o ⊔ ℓ) where
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/SimplicialSet/Properties.agda:192]: This is not the right file in which to define this. An actual `KanComplex` file would make sense. The top-level is getting a little crowded though. `Categories.Constructions.KanComplex` ?

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

**Comment by HuStmpHrrr** [comment]
better keep the description in the source code, so it can get updated as the code itself evolves.

**Comment by HuStmpHrrr** [comment]
overall these PRs you submit recently are very great contributions!

**Comment by TOTBWF** [comment]
Thanks! I really appreciate it 🙂 I've been pretty busy these past few weeks, but I hope to get back to update this PR soon!

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda (hunk 6 above)
Comment (TOTBWF) [reply src/Categories/Category/Instance/SimplicialSet/Properties.agda]: Good call! Moved

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda (hunk 5 above)
Comment (TOTBWF) [reply src/Categories/Category/Instance/SimplicialSet/Properties.agda:76]: For some reason this doesn't seem to work? I suspect there are some normalization shenanigans here

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda (hunk 4 above)
Comment (TOTBWF) [reply src/Categories/Category/Instance/SimplicialSet/Properties.agda:55]: Good idea! Done

File: src/Categories/Category/Instance/Simplex.agda (hunk 1 above)
Comment (TOTBWF) [reply src/Categories/Category/Instance/Simplex.agda]: Looks like I can, nice catch :)

**Comment by TOTBWF** [comment]
Ok, I bit the bullet and updated `IsWeakKanComplex` so that we avoid the (really annoying) proof obligations for internal horns. The indexing does get a bit crazy, but this is the price we pay!

File: src/Categories/Category/Instance/SimplicialSet/Properties.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Categories/Category/Instance/SimplicialSet/Properties.agda:76]: Oh well.

**Review by JacquesCarette — APPROVED** [review]
